US09233920B2
Alternatively, 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (0.075 g, 0.163 mmol) and antracen-9-yl-methyl quininium bromide (0.020 g, 0.034 mmol) were dissolved in toluene (2.0 ml). Nitromethane (10 molar equivalents) and potassium carbonate (0.025 g, 0.181 mmol) were added and the resulting suspension was stirred at 50° C. for 24 h. The reaction mixture was cooled to room temperature and water was added. The resulting mixture was extracted with dichloromethane (3×) and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (0.051 g, 60%) as a white foam. Chiral HPLC analysis (Chiralpack AS-RH, Heptane/2-propanol=90:10, 1 ml/min, retention time 6.13 minutes (major enantiomer), 7.35 minutes (minor enantiomer)) indicated that the reaction proceeded with 62% enantioselectivity.

reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 0.163 mmol, 0.075 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | Nitromethane | 10 molar | [N+](=O)([O-])C | CH3NO2
reactant | potassium carbonate | 0.181 mmol, 0.025 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(R)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 0.051 g, 60% | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
